US07465801B2
19.91 g (0.497 mol) Sodium hydroxide was added to a solution of 71 g (0.226 mol) acetic acid 2-acetoxy-2-(5-ethyl-pyridin-2-yl)-ethyl ester in 355 mL water. Reaction mixture was stirred at 40° C. for 2 hr. After completion of reaction on TLC, reaction mixture was neutralized with con. HCl and precipitated solid was filtered off and dried to get 1-(5-ethyl-pyridin-2-yl)-ethan-1,2-diol. Yield of the product was 32.1 g (68%).

reactant | Sodium hydroxide | 0.497 mol, 19.91 g | [OH-].[Na+]
reactant | acetic acid 2-acetoxy-2-(5-ethyl-pyridin-2-yl)-ethyl ester | 0.226 mol, 71 g | C(C)(=O)OC(COC(C)=O)C1=NC=C(C=C1)CC | C13H17NO4
solvent | water | 355 mL | O | H2O
product | 1-(5-ethyl-pyridin-2-yl)-ethan-1,2-diol | C(C)C=1C=CC(=NC1)C(CO)O | C9H13NO2
